US09376422B2
Step 1: Synthesis of methyl 3-bromo-6-chloropyridine-2-carboxylate
To a stirred solution of 3-bromo-6-chloropyridine-2-carboxylic acid (2.00 g, 8.46 mmol) in MeOH (40 ml) was added H2SO4 (189 μl, 3.55 mmol) and the solution was heated to reflux for 16 h. The reaction was cooled and the MeOH removed under reduced pressure, the resulting solid was dissolved in EtOAc (100 ml) and washed with saturated NaHCO3 solution (2×50 ml) followed by brine (50 ml), dried (Na2SO4) and evaporated under reduced pressure to afford the title compound as an off-white solid (1.97 g, 93%) which was used without any further purification. LC-MS 98%, m/z=249.8/251.7/253.7

reactant | 3-bromo-6-chloropyridine-2-carboxylic acid | 8.46 mmol, 2.00 g | BrC=1C(=NC(=CC1)Cl)C(=O)O | C6H3BrClNO2
reactant | H2SO4 | 3.55 mmol, 189 μl | OS(=O)(=O)O | H2O4S
reactant | MeOH | 40 ml | CO | CH4O
product | methyl 3-bromo-6-chloropyridine-2-carboxylate | 1.97 g, 93% | BrC=1C(=NC(=CC1)Cl)C(=O)OC | C7H5BrClNO2
